US04382942
A mixture of 10 g of 3-(3-methoxyphenyl)-1,2,5,6-tetrahydropyridine hydrochloride, 200 ml of acetone, 14 g of sodium carbonate and 9.3 g of phenacyl bromide were refluxed for 3 hours and was filtered. The filtrate was evaporated to dryness to obtain 14 g of 1-phenyl-2-[3-(3-methoxyphenyl)-1,2,5,6-tetrahydropyridin-1-yl]-ethanone.

reactant | 3-(3-methoxyphenyl)-1,2,5,6-tetrahydropyridine hydrochloride | 10 g | Cl.COC=1C=C(C=CC1)C=1CNCCC1
reactant | sodium carbonate | 14 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | phenacyl bromide | 9.3 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 1-phenyl-2-[3-(3-methoxyphenyl)-1,2,5,6-tetrahydropyridin-1-yl]-ethanone | 14 g | C1(=CC=CC=C1)C(CN1CC(=CCC1)C1=CC(=CC=C1)OC)=O | C20H21NO2
